US07173133B2
rac-2-(4-Fluoro-phenyl)-cyclohexanone
bi) To a solution of rac-2-(4-fluoro-phenyl)-cyclohexanol (3.8 g, 20 mmol) in DCM (320 mL) was added Dess-Martin periodinane [1,1,1-tris(acetyloxy)-1,1-dihydro-1,2-benziodoxol-3-(1H)-one](10 g, 24 mmol) at room temperature and after 2 h the reaction mixture was washed with sodium hydrogen carbonate (10%, 150 mL). The organic phase was then separated and washed with sodium thiosulfite (10%, 150 mL) and then dried over sodium sulfate, filtered and evaporated. Purification by chromatography through silica gel, eluting with ethyl acetate:hexane (1:4) afforded the title compound (3.4 g, 89%) as white crystals. MS: m/e=192.1 (M).

reactant | rac-2-(4-fluoro-phenyl)-cyclohexanol | 20 mmol, 3.8 g | FC1=CC=C(C=C1)C1C(CCCC1)O | C12H15FO
reactant | Dess-Martin periodinane | 24 mmol, 10 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | 320 mL | C(Cl)Cl | CH2Cl2
product | rac-2-(4-Fluoro-phenyl)-cyclohexanone | 3.4 g, 89% | FC1=CC=C(C=C1)C1C(CCCC1)=O | C12H13FO
